US07309703B2
To a stirred solution of 1-{3-[4-(2-chloro-6-nitro-phenyl)-piperazin-1-yl]-propyl}-5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine (0.153 g, 0.244 mmol) in EtOH (2.44 mL) was added zinc dust (0.80 mg, 1.22 mmol) and slow addition of acetic acid (0.70 mL). After 15 min the yellow solution became colorless and the access zinc dust was filtered through a plug of celite. The filtrate was concentrated and the residue was purified by column chromatography (silica, 0-10% MeOH/CH2Cl2) to afford 3-chloro-2-(4-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperazin-1-yl)-phenylamine (0.146 g, 100%). MS (electrospray): exact mass calculated for C27H32ClF3N6O2S, 596.2; m/z found, 597.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.73 (d, J=8.2 Hz, 2H), 7.66 (d, J=8.2 Hz, 2H), 6.88 (t, J=8.2 Hz, 1H), 6.63 (t, J=7.6 Hz, 2H), 4.55 (s, 2H), 4.36 (s, 2H), 4.15 (t, J=6.5 Hz, 2H), 3.60-3.70 (m, 4H), 2.97 (t, J=5.3 Hz, 2H), 2.90 (s, 3H), 2.83 (d, J=10.8 Hz, 2H), 2.74 (d, J=11.5 Hz, 2H), 2.37 (t, J=6.6 Hz, 2H), 2.11-2.20 (m, 4H).

reactant | 1-{3-[4-(2-chloro-6-nitro-phenyl)-piperazin-1-yl]-propyl}-5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 0.244 mmol, 0.153 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])N1CCN(CC1)CCCN1N=C(C=2CN(CCC21)S(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F | C27H30ClF3N6O4S
reactant | acetic acid | 0.70 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 2.44 mL | CCO | C2H6O
catalyst | zinc | 1.22 mmol, 0.80 mg | [Zn] | Zn
product | 3-chloro-2-(4-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperazin-1-yl)-phenylamine | 0.146 g, 100% | ClC=1C(=C(C=CC1)N)N1CCN(CC1)CCCN1N=C(C=2CN(CCC21)S(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F | C27H32ClF3N6O2S
